US05608056
To a suspension of sodium borohydride (16.2 g) and lithium chloride (18.1 g) in tetrahydrofuran (190 ml) were dropwise added (2S,4R)-1-benzyl-2-methoxycarbonyl-4-(t-butyldimethylsilyloxy)pyrrolidine (74.8 g) in tetrahydrofuran (190 ml), and ethanol (750 ml) under ice-cooling. The mixture was stirred at ambient temperature for 2 hours. The reaction mixture was cooled with dry ice-acetone bath and poured into ice-water. The mixture was adjusted to pH 6 with 1N hydrochloric acid and stirred for 10 minutes. The mixture was adjusted to pH 9~10 with 1N sodium hydroxide, and saturated with sodium chloride. After being extracted with ethyl acetate and tetrahydrofuran (1:1) three times, the organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. To the residue was added chloroform. The chloroform layer was again dried over anhydrous magnesium sulfate, and evaporated in vacuo to give (2S,4R)-1-benzyl-2-hydroxymethyl-4-(t-butyldimethylsilyloxy)pyrrolidine (70.10 g).

reactant | sodium borohydride | 16.2 g | [BH4-].[Na+]
reactant | lithium chloride | 18.1 g | [Cl-].[Li+]
reactant | (2S,4R)-1-benzyl-2-methoxycarbonyl-4-(t-butyldimethylsilyloxy)pyrrolidine | 74.8 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC | C19H31NO3Si
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | (2S,4R)-1-benzyl-2-hydroxymethyl-4-(t-butyldimethylsilyloxy)pyrrolidine | 70.10 g | C(C1=CC=CC=C1)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C18H31NO2Si
